US08803420B2
3.8 g (13 mmol) of (3-bromophenyl)-(2-nitrophenyl)amine was dissolved in 30 mL of tetrahydrofuran. A solution of 11 g (64 mmol) of sodium hydrosulfite in 30 mL of water was added dropwise to the solution while stirring the solution at room temperature in an argon atmosphere. After stirring the mixture for 5 hours, 20 mL of ethyl acetate was added to the mixture. A solution of 2.2 g (26 mmol) of sodium hydrogencarbonate in 20 mL of water was then added to the mixture. After the dropwise addition of a solution of 2.5 g (18 mmol) of benzoyl chloride in 10 mL of ethyl acetate, the mixture was stirred at room temperature for 1 hour. The mixture was then extracted with ethyl acetate, washed with a 10% potassium carbonate aqueous solution, water, and a saturated sodium chloride solution sequentially, and dried over anhydrous sodium sulfate. The solvent was then evaporated under reduced pressure to obtain N-[2-(3-bromophenylamino)phenyl]benzamide.

reactant | (3-bromophenyl)-(2-nitrophenyl)amine | 13 mmol, 3.8 g | BrC=1C=C(C=CC1)NC1=C(C=CC=C1)[N+](=O)[O-] | C12H9BrN2O2
reactant | sodium hydrosulfite | 64 mmol, 11 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydrogencarbonate | 26 mmol, 2.2 g | C(O)([O-])=O.[Na+]
reactant | benzoyl chloride | 18 mmol, 2.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | 30 mL | O | H2O
solvent | water | 20 mL | O | H2O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-[2-(3-bromophenylamino)phenyl]benzamide | BrC=1C=C(C=CC1)NC1=C(C=CC=C1)NC(C1=CC=CC=C1)=O | C19H15BrN2O
